data/rgd1/barriers/filtered.csv
rxn,smiles,ea
MR_187178_0,[C:1](/[C:3]([N:4]([H:10])[H:11])=[N:8]/[C:2]([H:15])([H:16])[H:17])([N:5]([H:12])[H:13])([C:6](=[C:7]([H:18])[H:19])[H:14])[H:9]>>[C:1](\[C:3]([N:4]([H:10])[H:11])([C:6](=[C:7]([H:18])[H:19])[H:14])[N:8]([C:2]([H:15])([H:16])[H:17])[H:12])(=[N:5]/[H:13])[H:9],55.41138750003015
MR_143200_0,[C:1]([N:6]([C:7]([C:4]([H:19])([H:20])[H:21])([N:5]([C:2]([H:13])([H:14])[H:15])[C:3]([H:16])([H:17])[H:18])[O:9][H:10])[H:11])(=[O:8])[H:12]>>[C:1]([N:5]([C:2]([H:13])([H:14])[H:15])[C:3]([H:16])([H:17])[H:18])([N:6]([C:7]([C:4]([H:19])([H:20])[H:21])=[O:9])[H:11])([O:8][H:10])[H:12],42.47045499999416
MR_325100_1,[C:1]([C@@:8]1([H:17])[C@@:3]([N:5]([H:12])[H:13])([O:9][H:10])[C@@:4]2([N:6]([H:14])[H:15])[N:2]([H:11])[C@:7]21[H:16])([H:18])([H:19])[H:20]>>[C:1](/[C:8](=[C:7](\[N:2](/[C:4](=[C:3](\[N:5]([H:12])[H:13])[O:9][H:10])[N:6]([H:14])[H:15])[H:11])[H:16])[H:17])([H:18])([H:19])[H:20],47.78098749999799
MR_471143_0,[C:1]([C:3]([N:5][N:2]([N:4][O:6])[H:7])[H:8])([H:9])([H:10])[H:11]>>[C:1]([C@@:3]1([H:8])[N:2]([H:7])[N:5]1[N:4]=[O:6])([H:9])([H:10])[H:11],67.9111875000028
MR_603937_0,[C:1]([C:2]([N:3]([H:7])[H:8])=[C:4]([H:11])[H:12])([N:5]=[O:6])([H:9])[H:10]>>[C:1](\[C:2]([N:3]([H:8])[H:9])=[C:4]([H:11])[H:12])(=[N:5]\[O:6][H:7])[H:10],50.50308249997386
MR_518653_1,[C:1]([C:6](=[C:5]([C:2]([H:14])([H:15])[H:16])[C:3]([H:17])([H:18])[H:19])[H:13])([O:7][N:4]([H:11])[H:12])([O:8][H:9])[H:10]>>[C:1](=[C:6](\[C:5]([C:2]([H:14])([H:15])[H:16])([C:3]([H:17])([H:18])[H:19])[O:7][N:4]([H:11])[H:12])[H:13])(\[O:8][H:9])[H:10],49.40181999997208
MR_551548_1,[C:1]([C:2]([C:5]([C:3]([H:14])([H:15])[H:16])([C:4]([H:17])([H:18])[H:19])[N:8]([H:9])[H:11])([H:12])[H:13])([O:6][H:10])=[O:7]>>[C:1]([C:2](/[C:5]([C:4]([H:17])([H:18])[H:19])=[N:8]/[H:11])([H:12])[H:13])([C:3]([H:14])([H:15])[H:16])([O:6][H:10])[O:7][H:9],71.92342249996727
MR_298540_0,[C:1]([C:3]1([C:5](=[O:6])[H:11])[N:2]([H:9])[C:4]1([O:7][H:8])[H:10])([H:12])([H:13])[H:14]>>[C:1](/[C:3]([N:2]([C:4](=[O:7])[H:10])[H:9])=[C:5](/[O:6][H:8])[H:11])([H:12])([H:13])[H:14],8.07843500000672
MR_241887_0,[C:1](/[C:3](=[C:5](\[O:7][C:2]([N:4]([H:10])[H:11])=[C:6]([H:16])[H:17])[H:12])[O:8][H:9])([H:13])([H:14])[H:15]>>[C:1]([C:3]([C:2]([N:4]([H:10])[H:11])=[C:6]([H:16])[H:17])([C:5](=[O:7])[H:12])[O:8][H:9])([H:13])([H:14])[H:15],63.39193249999866
MR_50869_1,[C:1](/[C:3]([N:6]([H:13])[H:14])=[C:8](/[C:7](=[C:2]([N:4]([H:9])[H:10])[N:5]([H:11])[H:12])[H:15])[H:16])([H:17])([H:18])[H:19]>>[C:1]([C@@:3]1([N:6]([H:13])[H:14])[C:2]([N:4]([H:9])[H:10])([N:5]([H:11])[H:12])[C:7]([H:15])=[C:8]1[H:16])([H:17])([H:18])[H:19],56.77306250001649
MR_617319_1,[C:1]([C:2](/[C:5](=[C:4](\[O:7][H:9])[H:13])[H:16])([H:14])[H:15])([N:3]([H:11])[H:12])([N:8]=[C:6]([H:17])[H:18])[H:10]>>[C:1]1([N:3]([H:11])[H:12])([H:10])[C:2]([H:14])([H:15])[C:5]([C:4](=[O:7])[H:13])([H:16])[C:6]([H:17])([H:18])[N:8]1[H:9],12.674872499994336
MR_216085_0,[C:1](/[C:2]([C:3](=[C:4]([H:11])[H:12])[H:7])=[N:5]/[H:6])([H:8])([H:9])[H:10]>>[C:1]([C:2]1=[C:3]([H:7])[C:4]([H:11])([H:12])[N:5]1[H:6])([H:8])([H:9])[H:10],50.179919999987206
MR_255414_1,[C:1]([N:2]([C:6](=[O:8])[H:14])[H:9])(/[C:3]([N:5]([H:12])[H:13])=[N:7]\[N:4]([H:10])[H:11])([H:15])[H:16]>>[C:1]1([H:15])([H:16])[N:2]([H:9])[C@:3]1([N:5]([H:12])[H:13])[N:7]([N:4]([H:10])[H:11])[C:6](=[O:8])[H:14],65.5499050000077
MR_401435_0,[C:1]([N:5]([H:11])[H:12])([N:6]=[C:2]([N:3]([H:8])[H:9])[N:4]([H:7])[H:10])([H:13])[H:14]>>[C:1](=[N:6][C:2]([N:3]([H:8])[H:9])([N:4]([H:7])[H:10])[N:5]([H:11])[H:12])([H:13])[H:14],69.24399750002635
MR_318573_2,[C:1](/[N:9]=[C:5](\[C:2]([H:17])([H:18])[H:19])[C:6]([C:3]([H:20])([H:21])[H:22])([N:7]([H:11])[H:12])/[C:8](=[N:4]/[H:10])[H:13])([H:14])([H:15])[H:16]>>[C:1](/[N:9]=[C:5](\[C:2]([H:17])([H:18])[H:19])[N:4](/[C:8](=[C:6](/[C:3]([H:20])([H:21])[H:22])[N:7]([H:11])[H:12])[H:13])[H:10])([H:14])([H:15])[H:16],62.83659499997398
MR_276421_0,[C@@:1]([N:3]([H:9])[H:10])([O:4][O:6][H:7])([O:5][C:2]([H:11])([H:12])[H:13])[H:8]>>[C@:1]([N:3]([H:9])[H:10])([O:4][O:5][C:2]([H:11])([H:12])[H:13])([O:6][H:7])[H:8],52.59328500001132
MR_433207_0,[C:1]([C:4]([C:2]([H:14])([H:15])[H:16])=[O:8])(/[C:5]([C:3]([H:17])([H:18])[H:19])=[C:7](\[N:6]([H:9])[H:10])[H:13])([H:11])[H:12]>>[C:1](=[C:5]([C:3]([H:17])([H:18])[H:19])[C:7]([C:4]([C:2]([H:14])([H:15])[H:16])=[O:8])([N:6]([H:9])[H:10])[H:13])([H:11])[H:12],65.64340249998565
MR_306250_0,[C:1](/[C:4]([N:3](/[C:5]([C:2]([H:15])([H:16])[H:17])=[N:8]\[H:11])[H:10])=[N:7]\[O:6][H:9])([H:12])([H:13])[H:14]>>[C:1](/[C:4](=[N:3]\[H:10])[N:7](/[C:5]([C:2]([H:15])([H:16])[H:17])=[N:8]\[H:11])[O:6][H:9])([H:12])([H:13])[H:14],50.926017499976126
